US07547691B2
2-{5-Methyl-2-[3-(1-methylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide di-hydrochloride
Using the method of 2-{5-fluoro-2-[3-(1-methylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride, the title compound is synthesized from 2-[5-methyl-2-(3-piperidin-4-yl-propylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid methylamide and isolated as a yellow solid. ES+(m/z) 438 [M(free base)+H].

reactant | 2-{5-fluoro-2-[3-(1-methylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride | Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2F)NCCCC2CCN(CC2)C
reactant | 2-[5-methyl-2-(3-piperidin-4-yl-propylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid methylamide | CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)NCCCC2CCNCC2 | C23H29N5OS
product | 2-{5-Methyl-2-[3-(1-methylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide di-hydrochloride | Cl.Cl.CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)NCCCC2CCN(CC2)C | InChI=1S/C24H31N5OS.2ClH/c1-16-15-27-24(26-11-5-6-17-9-12-29(3)13-10-17)28-22(16)21-14-19-18(23(30)25-2)7-4-8-20(19)31-21;;/h4,7-8,14-15,17H,5-6,9-13H2,1-3H3,(H,25,30)(H,26,27,28);2*1H
